US09120749B2
1-{6-(3,5-Dichloro-4-hydroxyphenyl)-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}ethanone
Following general procedure F, 1-{6-bromo-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}ethanone (50 mg, 0.120 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (52 mg, 0.180 mmol) to afford the desired product (46 mg, 77%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.31 (s, 1H), 8.20 (dd, J=8.8, 2.0 Hz, 1H), 8.00 (d, J=8.8 Hz, 1H), 7.72 (s, 1H), 7.70-7.56 (m, 2H), 7.51 (s, 1H), 7.40 (d, J=7.8 Hz, 1H), 7.10 (s, 2H), 3.40-3.30 (m, 2H), 3.21-3.11 (m, 2H), 2.94 (s, 6H), 2.82 (s, 3H); ESI MS m/z 494 [C27H25Cl2N3O2+H]+; HPLC 96.8% (AUC), tR=8.94 min.

reactant | 1-{6-bromo-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}ethanone | 0.120 mmol, 50 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC(=CC=C1)CCN(C)C | C21H22BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.180 mmol, 52 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | 1-{6-(3,5-Dichloro-4-hydroxyphenyl)-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}ethanone | 46 mg, 77% | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC(=CC=C1)CCN(C)C | C27H25Cl2N3O2
